US07696223B2
c) 2,3-Dibromo-7-cyano-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 105(a) from 2,3,7-tribromo-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester and CuCN. The title compound, ESI MS (m/z): 482 (M+H)+.

reactant | 2,3,7-tribromo-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Br)Br)C2=CC=C(C=C2)F)O | C16H10Br3FN2O3
reactant | CuCN | C(#N)[Cu]
product | 2,3-Dibromo-7-cyano-4-hydroxy-1-(4-fluoro-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Br)Br)C2=CC=C(C=C2)F)O | C17H10Br2FN3O3
